data/oMe_Silver.jsonl
{"reaction_id": "NR-219_1-C1CCCCC1_2-C(C)(C)C_6-C(C)(C)C","level": "medium","name": "Pfitzner-Moffatt oxidation","reactants_smiles": ["O=S(C)C","O=C(O)C","OC(C1CCCCC1)(C(C)(C)C)","C(C)(C)CN=C=NC(C)(C)C"],"products_smiles": ["S(C)C","O=C(O)C","O=C(C1CCCCC1)(C(C)(C)C)","C(C)(C)CNC(=O)NC(C)(C)C"],"conditions": null,"mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(C(C)(C)C)=C(N(C(C)(C)C))O[S+](C)C","step_weight": 0,"rationale": "The carbodiimide oxygen attacks DMSO sulfur because sulfur is electrophilic and polarizable; this forms an activated sulfonium intermediate stabilized by resonance with the carbodiimide."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(C(C)(C)C)=C(N(C(C)(C)C))OS(C)(C)[O]Cc3ccccc3","step_weight": 0,"rationale": "The activated sulfonium intermediate reacts with the alcohol oxygen, whose lone pairs attack the electrophilic sulfur, favored by the good leaving ability of the carbodiimide-derived group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[NH](C(C)(C)C)C(=[NH+](C(C)(C)C))OS(C)(C)OC(C1CCCCC1)(C(C)(C)C)","step_weight": 0,"rationale": "Proton transfer occurs to neutralize charges and generate a better leaving group; acid–base equilibrium is facilitated by the polar environment and the basic nitrogen atoms."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C1CCCCC1)(C(C)(C)C)[O][S](=C)C","step_weight": 0,"rationale": "The alkoxide oxygen attacks the activated sulfur, forming a sulfonium alkoxysulfonium species; this step is driven by the high electrophilicity of the sulfur center."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C1CCCCC1)(C(C)(C)C)","step_weight": 0,"rationale": "Elimination occurs as the leaving group departs, driven by the formation of a stable carbonyl and the favorable expulsion of a neutral dimethyl sulfide."}],"description": "In the Pfitzner–Moffatt oxidation, DMSO is activated by a carbodiimide to form an electrophilic sulfonium species, which reacts with the alcohol. Subsequent proton transfers and elimination steps drive the conversion of the alcohol to a carbonyl compound under mild, non-aqueous conditions."}
{"reaction_id": "NR-219_1-C_2-CC_6-CC","level": "medium","name": "Pfitzner-Moffatt oxidation","reactants_smiles": ["O=S(C)C","O=C(O)C","OC(C)(CC)","CCN=C=NCC"],"products_smiles": ["S(C)C","O=C(O)C","O=C(C)(CC)","CCNC(=O)NCC"],"conditions": null,"mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(CC)=C(N(CC))O[S+](C)C","step_weight": 0,"rationale": "The carbodiimide oxygen attacks DMSO sulfur because sulfur is electrophilic and polarizable; this forms an activated sulfonium intermediate stabilized by resonance with the carbodiimide."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(CC)=C(N(CC))OS(C)(C)[O]Cc3ccccc3","step_weight": 0,"rationale": "The activated sulfonium intermediate reacts with the alcohol oxygen, whose lone pairs attack the electrophilic sulfur, favored by the good leaving ability of the carbodiimide-derived group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[NH](CC)C(=[NH+](CC))OS(C)(C)OC(C)(CC)","step_weight": 0,"rationale": "Proton transfer occurs to neutralize charges and generate a better leaving group; acid–base equilibrium is facilitated by the polar environment and the basic nitrogen atoms."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(CC)[O][S](=C)C","step_weight": 0,"rationale": "The alkoxide oxygen attacks the activated sulfur, forming a sulfonium alkoxysulfonium species; this step is driven by the high electrophilicity of the sulfur center."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C)(CC)","step_weight": 0,"rationale": "Elimination occurs as the leaving group departs, driven by the formation of a stable carbonyl and the favorable expulsion of a neutral dimethyl sulfide."}],"description": "In the Pfitzner–Moffatt oxidation, DMSO is activated by a carbodiimide to form an electrophilic sulfonium species, which reacts with the alcohol. Subsequent proton transfers and elimination steps drive the conversion of the alcohol to a carbonyl compound under mild, non-aqueous conditions."}
